US07696231B2
2-{[(2-Furylmethyl)sulfonyl]methyl}-N′-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-1,3-thiazole-4-carbohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 2-{[(2-furylmethyl)sulfonyl]methyl}-1,3-thiazole-4-carbohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 32 mg of the title compound (63%) as a yellow solid in 99.3% purity by HPLC (Rt: 4.8, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 2-{[(2-furylmethyl)sulfonyl]methyl}-1,3-thiazole-4-carbohydrazide | O1C(=CC=C1)CS(=O)(=O)CC=1SC=C(N1)C(=O)NN | C10H11N3O4S2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-{[(2-Furylmethyl)sulfonyl]methyl}-N′-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-1,3-thiazole-4-carbohydrazide | 32 mg, 63% | O1C(=CC=C1)CS(=O)(=O)CC=1SC=C(N1)C(=O)NN=C1C(NC2=CC=C(C=C12)I)=O | C18H13IN4O5S2
